* F:\6 -  Gitreppos\Glitchifier9000\Simulations\Frontend.asc
V1 N003 0 PULSE(0 3.3 0.01u 0 0 0.2u 1u)
V2 N001 0 3.3
R1 N004 N003 10
XU1 N002 N004 0 irf7807zpbf
R2 N001 N002 3.3
.tran 1us
.lib C:\Users\Jetse\Documents\irf7807zpbf.cir
.backanno
.end
